US03950427
(E)-4-(3-Chloro-4-cyclohexyl-phenyl)-3-pentene-2-one by method F
87.6 Gm (0.781 mol) of potassium-tert.butylate were added all at once to a solution of 185.0 gm (0.781 mol) of 3'-chloro-4'-cyclohexyl-acetophenone and 123.0 gm (0.777 mol) of ethyl (E)-3-ethoxy-crotonate in 1.1 liters of anhydrous dimethyl formamide, whereby the temperature rose spontaneously from +20° to +38°C and the mixture turned deep red. The mixture was stirred for another hour with the temperature being maintained at 32°-35°C, and then 200 ml of concentrated hydrochloric acid added dropwise to the still warm mixture, and the resulting mixture was heated for 60 minutes at a temperature of 90°-100°C. After carbon dioxide evolution had ceased, the cooled mixture was stirred into 1 liter of ice water, and the aqueous mixture was exhaustively extracted with ether. The combined ether extracts were washed with water, dried over sodium sulfate and concentrated by evaporation. The residue was distilled in a vacuum (b.p. 175°-183°C at 0.1 mm Hg) and subsequently recrystallized twice from methanol, in the presence of activated charcoal. The colorless crystals, m.p. 56.5°-57.5°C were obtained with a yield of 132 gm (61% of theory).

reactant | 3'-chloro-4'-cyclohexyl-acetophenone | 0.781 mol, 185.0 gm | ClC=1C=C(C=CC1C1CCCCC1)C(C)=O | C14H17ClO
reactant | ethyl (E)-3-ethoxy-crotonate | 0.777 mol, 123.0 gm | C(C)O/C(=C/C(=O)OCC)/C | C8H14O3
reactant | hydrochloric acid | 200 ml | Cl | ClH
reactant | carbon dioxide | C(=O)=O | CO2
solvent | dimethyl formamide | 1.1 liters | CN(C=O)C | C3H7NO
product | (E)-4-(3-Chloro-4-cyclohexyl-phenyl)-3-pentene-2-one | ClC=1C=C(C=CC1C1CCCCC1)/C(=C/C(C)=O)/C | C17H21ClO
